data/pmechdb/original/mc_train_fold0/raw/train.txt
CCO[C:11](=[CH:10][CH:20](C1=CC=CC=C1)[OH:21])[O-:12]>>CCO[C:11](=[O:12])[CH:10]=[CH:20]C1=CC=CC=C1.[OH-:21] 10,11=10,20;20,21=21;12=11
[Li-]([N:12]([CH:11]=[C:10](C)[Si](CC)(CC)CC)C(C)(C)C)[O+:21]=[CH:20]CCC.CC(C)NC(C)C>>[Li-]1[N+:12](=[CH:11][C:10]([CH:20]([O:21]1)CCC)(C)[Si](CC)(CC)CC)C(C)(C)C.CC(C)NC(C)C 10,11=10,20;20,21=21;12=11
C[O-:10].C[Si:20](C)(C)OS(=O)(=O)C>>C[O:10][Si-:20](C)(C)(C)OS(=O)(=O)C 10=20,
C[Si](C)(C)CCOC(=O)NC1CCC(CC1)C(=N)[O-:10].C(=O)(C(F)(F)F)O[C:20](=[O:21])C(F)(F)F.CC[NH+](CC)CC>>C[Si](C)(C)CCOC(=O)NC1CCC(CC1)C(=N)[O:10][C:20](C(F)(F)F)([O-:21])OC(=O)C(F)(F)F.CC[NH+](CC)CC 10=20;20,21=21
[Li][Cu:11](C1=CC=CC=C1)[C:10]2=CC=CC=C2.C[C:20](=[O:21])Cl>>[Li][Cu+:11]C1=CC=CC=C1.C[C:20]([C:10]1=CC=CC=C1)([O-:21])Cl 10,11=10,20;20,21=21
CC(C[NH2:10])O.[CH3:20][I:21]>>CC(C[NH2+:10][CH3:20])O.[I-:21] 10=20;20,21=21
C1=C[CH:10]=[C:11](C=C1)O.[N+:20](=O)=[O:21]>>C1=C[CH:10]([C+:11](C=C1)O)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
CCC[N:10](CCC)[C:20]1(CCCCC1)[OH+:21][Ti-](Cl)(Cl)(Cl)Cl.CCCNCCC>>CCC[N+:10](=[C:20]1CCCCC1)CCC.[OH:21][Ti-](Cl)(Cl)(Cl)Cl.CCCNCCC 10=20;20,21=21
CCOC(=O)C1CCC[C:20]1([O-:10])[O:21]CC>>CC[O-:21].CCOC(=O)C1CCC[C:20]1=[O:10] 10=20;20,21=21
[H:20][O:21]C=O.C[Si](C)(C)C[C:11]#[CH:10]>>[H:20][CH:10]=[C+:11]C[Si](C)(C)C.C(=O)[O-:21] 10,11=10,20;20,21=21
[H:20][O+:21](CC)C(C)([O-])OC(=O)C=C.[OH2:10]>>[H:20][OH2+:10].CC[O:21]C(C)([O-])OC(=O)C=C 10=20;20,21=21
CC1CCC2C(C(OC3C24C1CCC(O3)(OO4)C)OC(=[O:10])C5=CC=CC=C5)C.Cl[Zn:20]Cl.C[Si](C)(C)CC#C>>CC1CCC2C(C(OC3C24C1CCC(O3)(OO4)C)OC(=[O+:10][Zn-:20](Cl)Cl)C5=CC=CC=C5)C.C[Si](C)(C)CC#C 10=20,
[B-](C)(C)(C)[O+](C)[Si-:11](C)(C)(C)[CH2:10][CH+:20]C>>[B-](C)(C)(C)[O+](C)[Si:11](C)(C)C.C[CH:20]=[CH2:10] 10,11=10,20
[H:20][CH:21]1[C:22](=[O:23])CCCC1(C)O.CC[O-:10]>>[H:20][O:10]CC.CC1(CCC[C:22](=[CH:21]1)[O-:23])O 10=20;22,23=23;20,21=21,22
C1=C(C(=C(C(=C1)Br)OC2=CC(=CC(=C2)[CH:20]=[O+:21]CCO)C#N)F)CO.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1=C(C(=C(C(=C1)Br)OC2=CC(=CC(=C2)[CH:20]([OH2+:10])[O:21]CCO)C#N)F)CO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][Cl:21].C[C:11]1=[CH:10]CCCC1(C)C2=CC=CC=C2>>[H:20][CH:10]1CCCC([C+:11]1C)(C)C2=CC=CC=C2.[Cl-:21] 10,11=10,20;20,21=21
CC1=CC=C(C=C1)[S:21](=O)(=O)[N-:20][N:10]=CC2=CC=CC=C2.CC(C)(C)O>>CC1=CC=C(C=C1)[S-:21](=O)=O.C1=CC=C(C=C1)C=[N+:10]=[N-:20].CC(C)(C)O 10=20;20,21=21
CN1CCC23C4[C:20](CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O)([NH:10]N)[OH:21].C(COCCO)O.O>>CN1CCC23C4[C:20](=[NH+:10]N)CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O.[OH-:21].C(COCCO)O.O 10=20;20,21=21
CC(C)[CH2:20][Br:21].C[C:10](=[C:11](C)[O-:12])C>>CC(C)[CH2:20][C:10](C)(C)[C:11](=[O:12])C.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)O.CC#[C-:10]>>[H:20][C:10]#CC.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[Si:20](C)(C)F.C=[O:10]>>C[Si-:20](C)(C)([O+:10]=C)F 10=20,
CCOC(=O)CC[OH:10].[O:21]=[S:20](Cl)Cl>>CCOC(=O)CC[OH+:10][S:20]([O-:21])(Cl)Cl 10=20;20,21=21
[H:20][O:21]C(=O)NCCN1C(=CC(=N1)C2=CC=CC=C2)C(=O)CC3CCCCC3.C(=O)(C(F)(F)F)[O-:10].C[C+](C)C>>[H:20][O:10]C(=O)C(F)(F)F.C1CCC(CC1)CC(=O)C2=CC(=NN2CCNC(=O)[O-:21])C3=CC=CC=C3.C[C+](C)C 10=20;20,21=21
CC(C1=CC=CC=C1)C(=O)O[Si-:11](C)(C)(C)[O:10][P+:20](CCCCC2=CC=CC=C2)(CC(=O)O[Si](C)(C)C)O[Si](C)(C)C.C[Si](C)(C)[NH2+][Si](C)(C)C.[Cl-]>>CC(C1=CC=CC=C1)C(=O)O[Si:11](C)(C)C.C[Si](C)(C)OC(=O)C[P:20](=[O:10])(CCCCC1=CC=CC=C1)O[Si](C)(C)C.C[Si](C)(C)[NH2+][Si](C)(C)C.[Cl-] 10,11=10,20
[H:20][OH2+:21].CC1(C2CCC1(C3(C2[O:10]3)C4=CC=CC=C4)C)C>>[H:20][O+:10]1C2C1(C3(CCC2C3(C)C)C)C4=CC=CC=C4.[OH2:21] 10=20;20,21=21
[H:20][CH:21](C1=CC=CC=C1)[C:22](=[O:23])C(C)C.[NH2-:10]>>[H:20][NH2:10].CC(C)[C:22](=[CH:21]C1=CC=CC=C1)[O-:23] 10=20;22,23=23;20,21=21,22
CC1=CC=C[CH+]C1(S(=O)(=O)C2=CC=CC=C2)[Sn:20](C)(C)C.[Cl-:10]>>CC1=CC=C[CH+]C1(S(=O)(=O)C2=CC=CC=C2)[Sn-:20](C)(C)(C)[Cl:10] 10=20,
[H:20][NH+:21]1CCCCC1.CCC(C)CC(C(=C(C)O)C(=O)OCC)[N:10]1CCCCC1.CC(=O)[O-].O>>[H:20][N+:10]1(CCCCC1)C(CC(C)CC)C(=C(C)O)C(=O)OCC.C1CC[NH:21]CC1.CC(=O)[O-].O 10=20;20,21=21
CC[Sn](CC)(CC)C[CH:11]=[CH2:10].C1=CC=C(C=C1)[CH:20]=[O+:21][Zn-](Cl)Cl.[Cl-]>>CC[Sn](CC)(CC)C[CH+:11][CH2:10][CH:20](C1=CC=CC=C1)[O:21][Zn-](Cl)Cl.[Cl-] 10,11=10,20;20,21=21
[H:20][CH2:21][CH2:22][N+:23](C)(C)CC.[OH-:10]>>CC[N:23](C)C.[CH2:21]=[CH2:22].[H:20][OH:10] 10=20;22,23=23;20,21=21,22
CC(=[O+][P:20]([O-:10])(Cl)(Cl)[Cl:21])NCCC1=CC(=CC=C1)OC>>CC(=[O+][P:20](=[O:10])(Cl)Cl)NCCC1=CC(=CC=C1)OC.[Cl-:21] 10=20;20,21=21
[H:20][OH2+:21].C1=CC=C(C=C1)CN2C(=O)C3=C(C2=[O:10])C=CC=C3>>[H:20][O+:10]=C1C2=C(C=CC=C2)C(=O)N1CC3=CC=CC=C3.[OH2:21] 10=20;20,21=21
[H:20][CH2:21]C1=CC=NC=C1.[NH2-:10]>>[H:20][NH2:10].[CH2-:21]C1=CC=NC=C1 10=20;20,21=21
CC1=CC=C[CH+]C1([S:20](=O)(C2=CC=CC=C2)([O-:10])[Cl:21])[Sn](C)(C)C>>CC1=CC=C[CH+]C1([S:20](=O)(=[O:10])C2=CC=CC=C2)[Sn](C)(C)C.[Cl-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1C2=C([C:10]1=[C:11]3CC4=CC=CC=C43)C=CC=C2>>[H:20][C:10]1(CC2=C1C=CC=C2)[C+:11]3CC4=CC=CC=C43.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[H:10][CH:11]([CH+:20]C)OC1=CC=CC=C1>>[H:10][CH:20](C)[CH+:11]OC1=CC=CC=C1 10,11=10,20
